US06455566B1
1-(5- Chloro-2-methyl-phenyl)-3-(2-methyl-benzothiazol-5-yl)-thiourea
Prepared using Method A from 4.5 g (24.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 4.02 g (24.5 mmol) of 5-amino-2-methylbenzothiazole to give 6.0 g of crude material. Soxhlet extraction with EtOAc gave 2.5 g of pure title compound as a tan solid (29% yield, m.p. 173-174° C. ).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 24.5 mmol, 4.5 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 5-amino-2-methylbenzothiazole | 24.5 mmol, 4.02 g | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
product | 1-(5- Chloro-2-methyl-phenyl)-3-(2-methyl-benzothiazol-5-yl)-thiourea | 2.5 g, 29% yield | ClC=1C=CC(=C(C1)NC(=S)NC=1C=CC2=C(N=C(S2)C)C1)C | C16H14ClN3S2
